US08633173B2
[5-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine was prepared from 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (75.0 mg, 0.260 mmol) and 1-(3-bromo-benzyl)-4-methyl-piperazine (77.0 mg, 0.286 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.043, 35%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.27 (d, J=8.6 Hz, 2H), 8.13 (d, J=8.6 Hz, 2H), 7.59-7.51 (m, 3H), 7.45-7.43 (m, 1H), 7.28 (t, J=7.8 Hz, 1H), 7.06 (dd, J=5.1, 3.3 Hz, 1H), 6.98-6.94 (m, 2H), 3.50 (s, 2H), 3.15 (s, 3H), 2.70-2.32 (m, 8H), 2.28 (s, 3H). MS=477 (MH)+.

reactant | 5-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.260 mmol, 75.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O2S
reactant | 1-(3-bromo-benzyl)-4-methyl-piperazine | 0.286 mmol, 77.0 mg | BrC=1C=C(CN2CCN(CC2)C)C=CC1 | C12H17BrN2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [5-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[3-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC2=CC(=CC=C2)CN2CCN(CC2)C | C25H28N6O2S
